US05935997
In a 500 mL flask equipped with magnetic stirrer, N-(t-butyloxycarbonyl)-(DL)-phenylalaninol(0.051 mole, 13.6 g) was dissolved in 200 mL of THF and was added with NaH(0.061 mole, 1.47 g) at 0° C. The reaction mixture was stirred at 0° C. for 1 hour, followed by the addition of CS2 (0.061 mole, 4.66 g). After being stirred for 40 min. at 0° C., MeI(0.061 mole, 8.69 g) was added to the reaction mnixture. The reaction mixture was stirred at room temperature for 2 hours, followed by the addition of 5N NH4OH (0.090 mole, 18.0 mL) for 6 hours. The resulting solution was quenched with water. The organic layer was extracted 3 times with dichloromethane, dried over magnesium sulfate and distilled in vacuo, to give a solid. This was recrystalized in a solution mixture-of n-hexane and diethyl ether, to produce 14.7 g of O-thiocarbamoyl-N-(t-butyloxycarbonyl)-(DL)-phenylalaninol: Yield 80%.

reactant | N-(t-butyloxycarbonyl)-(DL)-phenylalaninol | 0.051 mole, 13.6 g | C(C)(C)(C)OC(=O)NC(CC1=CC=CC=C1)CO | C14H21NO3
reactant | NaH | 0.061 mole, 1.47 g | [H-].[Na+]
reactant | CS2 | 0.061 mole, 4.66 g | C(=S)=S | CS2
reactant | MeI | 0.061 mole, 8.69 g | CI | CH3I
reactant | NH4OH | 0.090 mole, 5N, 18.0 mL | [NH4+].[OH-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | O-thiocarbamoyl-N-(t-butyloxycarbonyl)-(DL)-phenylalaninol | 14.7 g, Yield 80% | C(N)(=S)OCC(NC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C15H22N2O3S
